US07750150B2
(5) Preparation of 2-bromo-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methyl-3-pyridyl]acetamide
3-Amino-2,4-bis(2,2,2-trifluoroethoxy)-6-methyl-3-nitropyridine (42.29 g, 139.0 mmol) was dissolved in dichloromethane (600 mL), followed by the addition of N,N-dimethylaniline (20.46 g, 16.8 mmol). While stirring the mixture in an ice bath, a solution of bromoacetyl bromide (28.73 g, 142.3 mmol) in dichloromethane (100 mL) was added dropwise, and the reaction mixture was stirred at room temperature for 10 minutes. The reaction mixture was extracted with chloroform-water. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was recrystallized from chloroform-hexane to obtain the title compound (50.25 g, 85%) as colorless needles.

reactant | 3-Amino-2,4-bis(2,2,2-trifluoroethoxy)-6-methyl-3-nitropyridine | 139.0 mmol, 42.29 g | NC1(C(N=C(C=C1OCC(F)(F)F)C)OCC(F)(F)F)[N+](=O)[O-] | C10H11F6N3O4
reactant | N,N-dimethylaniline | 16.8 mmol, 20.46 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | bromoacetyl bromide | 142.3 mmol, 28.73 g | BrCC(=O)Br | C2H2Br2O
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-bromo-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methyl-3-pyridyl]acetamide | 50.25 g, 85% | BrCC(=O)NC=1C(=NC(=CC1OCC(F)(F)F)C)OCC(F)(F)F | C12H11BrF6N2O3
